US05213897
N-(2,2,6,6-tetramethyl-4-piperidinyl)-N'-methylaminooxamide was prepared by reacting ethyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate with 97% methyl hydrazine in methanol.

reactant | ethyl N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamate | CC1(NC(CC(C1)NC(C(=O)OCC)=O)(C)C)C | C13H24N2O3
reactant | methyl hydrazine | CNN | CH6N2
solvent | methanol | CO | CH4O
product | N-(2,2,6,6-tetramethyl-4-piperidinyl)-N'-methylaminooxamide | CC1(NC(CC(C1)NC(=O)C(=O)NNC)(C)C)C | C12H24N4O2
